US05084461
Dissolve 12,12,12-trifluorododecanoic acid (244 mg, 0.96 mmol) in methylene chloride (5 mL) and add dimethylformamide (3 drops). Add oxalyl chloride (85 μL, 0.96 mmol) and stir until evolution of carbon dioxide is complete to give 12,12,12-trifluorododecanoyl chloride.

reactant | 12,12,12-trifluorododecanoic acid | 0.96 mmol, 244 mg | FC(CCCCCCCCCCC(=O)O)(F)F | C12H21F3O2
reactant | oxalyl chloride | 0.96 mmol, 85 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 12,12,12-trifluorododecanoyl chloride | FC(CCCCCCCCCCC(=O)Cl)(F)F | C12H20ClF3O
